US05504101
The aidehyde 5-benzyl-3-formylindole (0.15 g, 0.6 mmol), nitromethane (0.9 ml) and ammonium acetate (0.05 g, 0.7 mmol) were heated gently under reflux for 0.5 h. On cooling, dark ruby-red crystals slowly separated. Crystallization from methanol gave 0.06 g (34%) of 5-benzyl-3-(2-nitroethenyl)indole as orange crystals.

reactant | 5-benzyl-3-formylindole | 0.6 mmol, 0.15 g | C(C1=CC=CC=C1)C=1C=C2C(=CNC2=CC1)C=O | C16H13NO
reactant | ammonium acetate | 0.7 mmol, 0.05 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 0.9 ml | [N+](=O)([O-])C | CH3NO2
product | 5-benzyl-3-(2-nitroethenyl)indole | 0.06 g, 34% | C(C1=CC=CC=C1)C=1C=C2C(=CNC2=CC1)C=C[N+](=O)[O-] | C17H14N2O2
